US06713473B1
N-Boc-6-aminocaproic acid (7.58 g) prepared by the method described in a Journal of Medicinal Chemistry (J. Med. Chem., 35, p.272 (1993)) and 7.58 g of 3-amino-9-ethylcarbazole were dissolved in 75 mL of dimethylformamide, and the solution was added with 10.4 g WSC hydrochloride and stirred at room temperature for 3.5 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with 1 N aqueous sodium hydroxide, 10% aqueous citric acid and saturated brine, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (eluent: hexane/ethyl acetate=1/1) to obtain 10.3 g of 3-(N-Boc-6-aminocaproyl)amino-9-ethylcarbazole.

reactant | N-Boc-6-aminocaproic acid | 7.58 g | C(=O)(OC(C)(C)C)NCCCCCC(=O)O | C11H21NO4
reactant | 3-amino-9-ethylcarbazole | 7.58 g | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
reactant | WSC hydrochloride | 10.4 g | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 3-(N-Boc-6-aminocaproyl)amino-9-ethylcarbazole | 10.3 g | C(=O)(OC(C)(C)C)NCCCCCC(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C25H33N3O3
